US05273986
A solution of 0.57 g of (E)-4-[2-[3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]-3-methoxybenzoic acid methyl ester, 25 ml of tetrahydrofuran, 8 ml of methanol and 0.28 g of lithium hydroxide monohydrate was stored at 25° C. for 20 hr. The solvents were removed by rotary evaporation and the residual materials solubilized in 50 ml of water. Acetic acid was added and the precipitate of (E)-4-[2-[3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]-3-methoxybenzoic acid was isolated by filtration, m.p. 242°-243° C. after trituration with hot acetonitrile.

reactant | (E)-4-[2-[3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]-3-methoxybenzoic acid methyl ester | 0.57 g | COC(C1=CC(=C(C=C1)CC(=O)NC1=CC(=CC=C1)\C=C\C=1SC=C(N1)C1CCC1)OC)=O | C26H26N2O4S
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
reactant | lithium hydroxide monohydrate | 0.28 g | O.[OH-].[Li+]
solvent | methanol | 8 ml | CO | CH4O
product | (E)-4-[2-[3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]-3-methoxybenzoic acid | C1(CCC1)C=1N=C(SC1)/C=C/C=1C=C(C=CC1)NC(CC1=C(C=C(C(=O)O)C=C1)OC)=O | C25H24N2O4S
